US05948793
91a. 3-((cis-5n-butyl-1-methyl-2-(S)-pyrrolidinyl)methoxy)pyridine
A 1.24 g (6.0 mmol) sample of 3-(1-methyl-2-oxo-5-(S)-pyrrolidinylmethoxy)-pyridine, prepared as in Example 22b above, was dissolved in mL of THF and cooled to -78° C. To this solution was added 6.0 mL (12 mmol) of 2 M methyl lithium, and the solution was warmed to room temperature, then stirred for 44 hours. Two mL of methanol were added, and the mixture concentrated under vacuum. Another 10 mL of methanol was added, followed by 65.6 mg of NaBCNH3 and a trace of bromocresol green indicator. HCl (4M) was added slowly until the solution remained a yellow color, then the reaction mixture was stirred for 1 hour. The mixture was then adjusted to basic pH with satd NaHCO3, concentrated, and extracted with ethyl acetate. The extract was dried, concentrated and chromatographed on silica gel to give 86 mg of title compound. MS (DCI/NH3) m/e: 248 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 8.33-8.31 (m, 1H), 8.23-8.19 (m, 1H), 7.23-7.19 (m, 2H), 4.11-4.04 (m, 1H), 3.93-3.86 (m, 1H), 2.87-2.77 (m, 1H, 2.46 (s, 3H), 2.40-2.27 (m, 1H), 2.05-1.20 (m, 10H), 0.92 (t, J=6.0 Hz, 3H).

reactant | 3-(1-methyl-2-oxo-5-(S)-pyrrolidinylmethoxy)-pyridine | CN1C(CC[C@H]1COC=1C=NC=CC1)=O | C11H14N2O2
reactant | THF | mL | C1CCOC1 | C4H8O
reactant | methyl lithium | 12 mmol, 2 M, 6.0 mL | C[Li]
solvent | methanol | Two mL | CO | CH4O
product | 3-((cis-5n-butyl-1-methyl-2-(S)-pyrrolidinyl)methoxy)pyridine | 86 mg | C(CCC)[C@H]1CC[C@H](N1C)COC=1C=NC=CC1 | C15H24N2O
